US08217177B2
6-(Difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinoline
To a stirring suspension of 1-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)pyridin-2-yl)hydrazine (190 mg, 917 μmol), methyl 2,2-difluoro-2-(quinolin-6-yl)acetate (218 mg, 917 μmol), triphenylphosphine polymer supported (241 mg, 917 μmol), DIEA (200 μl, 1146 μmol) in DCM (4 mL) was added 2,2,2-trichloroacetonitrile (92 μl, 917 μmol). The reaction vessel was then appropriately sealed and heated to 150° C. with microwaves for 15 min. The reaction was then concentrated onto dry silica under reduced pressure and product purified on silica (40 g) eluting with 1-4% of 2 M NH3 in MeOH/DCM. The product was then further purified by RP-HPLC eluting with water/ACN (0.1% TFA). Collected fractions concentrated under reduced pressure, dissolved in MeOH/DCM (5 mL) and stirred with Si-Carbonated (300 mg; 0.2 mmol) for 30 min at 23° C. Solids were then removed by filtration, and washed with MeOH (3×1 mL). The filtrate was then concentrated under reduced pressure, and product isolated as an off white solid. MS (ESI pos. ion) m/z: 395 (MH+). Calc'd exact mass for C20H13F3N6: 394.

reactant | 1-(3-fluoro-5-(1-methyl-1H-pyrazol-4-yl)pyridin-2-yl)hydrazine | 917 μmol, 190 mg | FC=1C(=NC=C(C1)C=1C=NN(C1)C)NN | C9H10FN5
reactant | methyl 2,2-difluoro-2-(quinolin-6-yl)acetate | 917 μmol, 218 mg | FC(C(=O)OC)(C=1C=C2C=CC=NC2=CC1)F | C12H9F2NO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIEA | 1146 μmol, 200 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,2,2-trichloroacetonitrile | 917 μmol, 92 μl | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | 6-(Difluoro(8-fluoro-6-(1-methyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)methyl)quinoline | FC(C=1C=C2C=CC=NC2=CC1)(C1=NN=C2N1C=C(C=C2F)C=2C=NN(C2)C)F | C20H13F3N6
